US07244864B2
5-amino-N,N′-bis[2-hydroxy-1-(hydroxymethyl)ethyl]-1,3-benzenedicarboxamide
5-Amino-1,3-benzenedicarboxylic acid dimethyl ester (40.0 g, 191 mmol) and 2-amino-1,3-dihydroxypropane (104.5 g, 1.147 mol) are loaded into a 1 L vessel equipped with a mechanical stirrer, a thermometer and a refluxing refrigerator. The suspension is heated up to 105° C., and is maintained at this temperature for 150 minutes to yield a solution. After cooling to 50° C., methanol (0.7 L) is added and the obtained suspension is maintained for 4 hours at room temperature. The solid that separates is filtered, washed with methanol (0.3 L), and dried in the oven at 45° C. for 4 hours yielding the compound of the title (56.3 g, 0.172 mol, yield: 90%).

reactant | 5-Amino-1,3-benzenedicarboxylic acid dimethyl ester | 191 mmol, 40.0 g | COC(=O)C1=CC(=CC(=C1)N)C(=O)OC | C10H11NO4
reactant | 2-amino-1,3-dihydroxypropane | 1.147 mol, 104.5 g | NC(CO)CO | C3H9NO2
solvent | methanol | 0.7 L | CO | CH4O
product | 5-amino-N,N′-bis[2-hydroxy-1-(hydroxymethyl)ethyl]-1,3-benzenedicarboxamide | yield: 90% | NC=1C=C(C=C(C1)C(=O)NC(CO)CO)C(=O)NC(CO)CO | C14H21N3O6
